US05498630
2,5-Dichlorobenzoyl chloride (51 mmol) and 70% aq EtNH2 (130 mmol) were combined according to General Method E1 to afford 9.4 g of N-ethyl-2,5-dichlorobenzamide as a beige solid, an 85% yield.

reactant | 2,5-Dichlorobenzoyl chloride | 51 mmol | ClC1=C(C(=O)Cl)C=C(C=C1)Cl | C7H3Cl3O
reactant | EtNH2 | 130 mmol | C(C)N | C2H7N
product | N-ethyl-2,5-dichlorobenzamide | 9.4 g, 85% yield | C(C)NC(C1=C(C=CC(=C1)Cl)Cl)=O | C9H9Cl2NO
